.title KiCad schematic
.model __D1 D
+           is=90p
+           rs=40m
+           n=1.4
+           tt=5u
+           cjo=30p
+           bv=1000
+           ibv=5u
D1 Net-_D1-A_ Net-_D1-K_ __D1
V1 Net-_D1-A_ GND DC 1 
VMES2 Net-_MES2-+_ GND DC 0 
R1 Net-_D1-K_ Net-_MES2-+_ 1k
.end
