.title KiCad schematic
.model __D1 D
+           is=90p
+           rs=40m
+           n=1.4
+           tt=5u
+           cjo=30p
+           bv=1000
+           ibv=5u
D1 Net-_D1-A_ Net-_D1-K_ __D1
R1 Net-_D1-K_ GND 10k
C1 Net-_D1-K_ GND 1u
V1 Net-_D1-A_ GND DC SINE(0 5 60) 
.end
